US05747499
(3) Methyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-amino]pyridine-2-carboxylate
A mixture of methyl 5-[-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-pyridine-2-carboxylate (0.24 g), an aqueous solution of formaldehyde (37% weight/volume, 0.52 ml) and glacial acetic acid (5 ml) was stirred at ambient temperature for 30 minutes. Sodium cyanoborohydride (0.05 g) was added portionwise during 5 minutes and the mixture was stirred at ambient temperature for 30 minutes. The mixture was poured onto a mixture of ice and water (20 ml) and extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography using ethyl acetate as eluant. There was thus obtained methyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate as a gum (0.185 g);

reactant | methyl 5-[-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-pyridine-2-carboxylate | 0.24 g | CC1=NC2=CC3=C(C(=C2C(N1OC(C(C)(C)C)=O)=O)C)C(CC3)NC=3C=CC(=NC3)C(=O)OC | C25H28N4O5
reactant | formaldehyde | 0.52 ml | C=O | CH2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.05 g | C(#N)[BH3-].[Na+]
solvent | water | 20 ml | O | H2O
product | Methyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-amino]pyridine-2-carboxylate | CN(C1CCC2=C1C(=C1C(N(C(=NC1=C2)C)OC(C(C)(C)C)=O)=O)C)C=2C=CC(=NC2)C(=O)OC | C26H30N4O5
